US04511573
To a suspension of 0.49 g of lithium aluminum hydride in 50 ml of anhydrous tetrahydrofuran under nitrogen is added dropwise at room temperature a solution of 4.09 g of 3-(5-ethoxycarbonylpentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole in 30 ml of anhydrous tetrahydrofuran. After addition is complete the suspension is stirred for 1 hour at room temperature, and 50 ml of a saturated ammonium chloride solution is added. The reaction mixture is allowed to stand at room temperature overnight and the organic layer is separated. The aqueous layer is filtered to remove salts and extracted with ethyl acetate (2×50 ml). The combined organic layers are washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The crude product is purified by trituration with hexane/ether and dissolved in ethanol. Ethanolic hydrochloric acid is added to acidity and the solution diluted with anhydrous ether to crystallize the product. 3-(6-Hydroxyhexyl)-5-chloro-1-methyl-2-(3-pyridyl)indole hydrochloride is obtained.

reactant | lithium aluminum hydride | 0.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(5-ethoxycarbonylpentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole | 4.09 g | C(C)OC(=O)CCCCCC1=C(N(C2=CC=C(C=C12)Cl)C)C=1C=NC=CC1 | C22H25ClN2O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(6-Hydroxyhexyl)-5-chloro-1-methyl-2-(3-pyridyl)indole hydrochloride | Cl.OCCCCCCC1=C(N(C2=CC=C(C=C12)Cl)C)C=1C=NC=CC1 | InChI=1S/C20H23ClN2O.ClH/c1-23-19-10-9-16(21)13-18(19)17(8-4-2-3-5-12-24)20(23)15-7-6-11-22-14-15;/h6-7,9-11,13-14,24H,2-5,8,12H2,1H3;1H
